* Schematics Netlist *



D_D3         $N_0001 $N_0002 D1N4001 
D_D4         Sw_emerg $N_0002 D1N4001 
D_D2         $N_0001 Door D1N4001 
D_D1         $N_0001 $N_0003 D1N4001 
V_V10         $N_0004 0 9
V_V9         $N_0005 0 9
R_Buzzer         $N_0002 0  100k  
V_V1         $N_0006 0 5
X_U5         $N_0003 0 Sw_tClose PARAMS: tClose=2 ttran=1u Rclosed=0.01
+  Ropen=1Meg
V_V11         $N_0007 0 9
X_U6         $N_0007 Sw_emerg Sw_tClose PARAMS: tClose=2 ttran=1u Rclosed=0.01
+  Ropen=1Meg
X_U4         Door 0 Sw_tClose PARAMS: tClose=2 ttran=1u Rclosed=0.01 Ropen=1Meg
R_R4         Door $N_0005  220  
R_R5         $N_0003 $N_0004  220  
R_R1         $N_0001 $N_0006  220  
R_R2         0 $N_0002  10k  
R_R6         0 Sw_emerg  1k  
